US05510366
(4) 2,3-Dihydro-4-hydroxy-3,3,7-trimethyl-1H-indol-2-one
41.0 g (146 mmol) of 1-benzyl-2,3-dihydro-4-hydroxy-3,3,7-trimethyl-1H-indol-2-one was dissolved in 11 of acetic acid. After the addition of 82 g of a 10% palladium-carbon catalyst, the reaction atmosphere was replaced with hydrogen and 40 ml (160 mmol) of 4N hydrogen chloride solution in ethyl acetate was added, following which the mixture was stirred for 2.5 hours over a water bath at 80° C. The catalyst was removed by filtration and the filtrate was concentrated under reduced pressure. The residue obtained was purified by column chromatography (silica gel, 4:1 mixture of chloroform and methanol) and recrystallized (ether) to obtain 27.58 g (yield, 98.9%) of colorless prisms of the title compound.

reactant | 1-benzyl-2,3-dihydro-4-hydroxy-3,3,7-trimethyl-1H-indol-2-one | 146 mmol, 41.0 g | C(C1=CC=CC=C1)N1C(C(C2=C(C=CC(=C12)C)O)(C)C)=O | C18H19NO2
reactant | hydrogen | [H][H] | H2
reactant | hydrogen chloride | 160 mmol, 4N, 40 ml | Cl | ClH
solvent | acetic acid | C(C)(=O)O | C2H4O2
catalyst | palladium-carbon | [C].[Pd]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2,3-Dihydro-4-hydroxy-3,3,7-trimethyl-1H-indol-2-one | OC1=C2C(C(NC2=C(C=C1)C)=O)(C)C | C11H13NO2
